US04294843
Methanesulphonyl chloride (1.39 g) was added dropwise to a cooled solution of 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole (3.1 g) in pyridine (12 ml). The reaction mixture was then poured into water (75 ml) the so formed solid removed by filtration and crystallised from ethanol to give 3-(2-methylsulphonamidophenylthiomethyl)-1,2,4-oxadiazole, m.p. 106°.

reactant | Methanesulphonyl chloride | 1.39 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole | 3.1 g | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
reactant | water | 75 ml | O | H2O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-methylsulphonamidophenylthiomethyl)-1,2,4-oxadiazole | CS(=O)(=O)NC1=C(C=CC=C1)SCC1=NOC=N1 | C10H11N3O3S2
